US07285564B2
Step B—Preparation of 3-(3-Bromopropoxy)propionyl Chloride
To a stirred solution of 3-(3-bromopropoxy)propionic acid (15.2 g, 72.2 mmol) in CCl4 (250 mL) was added SOCl2 (5.5 mL, 76.0 mmol) and DMF (20 drops) and the reaction mixture was allowed to stir at room temperature for 18 h. The reaction mixture was concentrated under reduced pressure to give the title intermediate, which was used without further purification.

reactant | 3-(3-bromopropoxy)propionic acid | 72.2 mmol, 15.2 g | BrCCCOCCC(=O)O | C6H11BrO3
reactant | SOCl2 | 76.0 mmol, 5.5 mL | O=S(Cl)Cl | Cl2OS
solvent | CCl4 | 250 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | DMF | 20 drops | CN(C)C=O | C3H7NO
product | 3-(3-Bromopropoxy)propionyl Chloride | BrCCCOCCC(=O)Cl | C6H10BrClO2
